US05135937
In a second process, 20 g of 5-bromomethyl-thiophene-2-carbonitrile is heated with 200 ml of triethyl phosphite for 4 hours to 150°. Then triethyl phosphite is removed at 40°-60°/0.06 mbar, and the residue is distilled on a bulb tube at 130°-150°/0.004 mbar, resulting in 24 g of (5-cyano-2-thienyl)methylphosphonic acid diethyl ester. Of this product, 5 g is added dropwise, with 1.5 ml of cyclopentanone in 5 ml of tetrahydrofuran, to a suspension of 581 mg of sodium hydride/oil (80% strength) and 116 mg of 15-crown-5 in 5 ml of tetrahydrofuran. After 2 hours of agitation at room temperature, the mixture is poured on water and extracted with ethyl acetate. The ethyl acetate phase is dried and evaporated, and the residue is recrystallized from isopropanol, thus obtaining 3.0 g of 5-cyclopentylidenemethylthiophene-2-carbonitrile, identical to the product described above.

reactant | 5-bromomethyl-thiophene-2-carbonitrile | 20 g | BrCC1=CC=C(S1)C#N | C6H4BrNS
reactant | triethyl phosphite | 200 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | cyclopentanone | 1.5 ml | C1(CCCC1)=O | C5H8O
reactant | sodium hydride | 581 mg | [H-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | 15-crown-5 | 116 mg | C1COCCOCCOCCOCCO1 | C10H20O5
product | 5-cyclopentylidenemethylthiophene-2-carbonitrile | 3.0 g | C1(CCCC1)=CC1=CC=C(S1)C#N | C11H11NS
